Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Erythromycin Base / Wellbutrin / Reglan / Zofran / Bactrim DS
 
Attending: ___.
 
Chief Complaint:
Chest pain and abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ male with hx of DM c/b blindness, ESRD s/p renal 
transplant, CAD s/p stents to the RCA and LCX, presenting with 
chest pain. He notes gradual onset of substernal chest pain 
starting this morning at about 10 am. Pain had been constant and 
sharp in nature and non radiating. He took mylanta and viscous 
lidocaine without any symptom relief. Does have history of 
coronary artery stenting in the past, last stress test in ___ 
was negative for ischemic changes. Since coming to the ED he now 
notes pain in the RUQ of his abdomen that is worse with food 
(ate ham this am). Denies any cough, fevers or chills. Does have 
some shortness of breath associated with symptoms. Notes some 
nausea without vomiting. Further denies diarrhea. He denies any 
fevers but states he had felt lethargic with occasional chills. 
He states bowel movements have been regular but small. He denies 
any blood in his stools.  
Initial VS in the ED: 90 138/80 19 100% Exam notable for RUQ 
tenderness. Labs notable for negative troponin x 2, second set 
pending as well as creatine of 1.3 from a baseline of 1.1, 
normal LFTs and normal lipase. EKG was unchanged from prior. RUQ 
US demonstrated distended gallbladder without other evidence 
cholecystitis or cholelithiasis. CXR showed no acute process. 
Patient was given ASA 325 mg, dilaudid and morphine for pain 
with relief to approximately ___. He was evaluated by surgery 
who recommended admission to medicine with plan for a HIDA scan. 
VS prior to transfer: 97.8 124/75 18 84 100%RA  
On the floor, he notes some continued RUQ abdominal pain 
(currently ___.  
Review of systems:  
(+) Per HPI  
(-) Denies fever night sweats, recent weight loss or gain. 
Denies headache. Denied cough, shortness of breath. Denied 
palpitations. Denied vomiting, diarrhea, constipation. No recent 
change in bowel or bladder habits. No dysuria.  

 
Past Medical History:
CAD s/p stents to the RCA and LCx  
HTN  
Renal tx in ___  
IDDM  
HLD  
Neuropathy  
Blind (2 prosthetic eyes)  
Broke right tib/fib now unable to dorsi or plantar flex  
shattered left patella  
depression  
MRSA abcesses on chronic minocycline  
Chronic skin changes due to antibiotics  
Spastic swallowing  
Chronic pain on narcotics contract  

 
Social History:
___
Family History:
brother with DM. no strokes or MI in the family. 

 
Physical Exam:
Admission Physical Exam:  
Vitals: T: afebrile BP: 124/73 P: 81 R: 16 18 O2: 100% RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, NABS, TTP in the RUQ, mild pain in the RLQ (site 
of transplant kidney)  
Ext: Warm, well perfused, chronic hyperpigmentation over the 
shins (chronic changes from minocycline use) 

 
Discharge Physical Exam:  
Vitals: T: 98.1 BP: 110/62 P: 77 R: 18 O2: 100% RA I:1500mL 
O:1700mL BG: 101  
General: Alert, oriented, no acute distress  
HEENT: eye prosthesis b/l, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: obese, soft, ND, NT, NABS, no rebound or guarding  
Ext: Warm, well perfused, chronic black hyperpigmentation over 
the shins bilaterally (chronic changes from minocycline use), no 
edema  

 
Pertinent Results:
Admission Labs:
___ 08:06PM   cTropnT-<0.01
___ 12:46PM   LACTATE-1.7
___ 12:38PM   GLUCOSE-129* UREA N-21* CREAT-1.3* SODIUM-144 
POTASSIUM-4.1 CHLORIDE-107 TOTAL CO2-31 ANION GAP-10
___ 12:38PM   ALT(SGPT)-21 AST(SGOT)-21 ALK PHOS-78 TOT 
BILI-0.2
___ 12:38PM   LIPASE-50
___ 12:38PM   cTropnT-<0.01
___ 12:38PM   ALBUMIN-3.9 CALCIUM-9.4 PHOSPHATE-2.4* 
MAGNESIUM-1.6
___ 12:38PM   WBC-7.3 RBC-3.87* HGB-12.8* HCT-38.6* 
MCV-100* MCH-33.0* MCHC-33.0 RDW-14.0
___ 12:38PM   NEUTS-78.7* LYMPHS-13.8* MONOS-5.7 EOS-1.3 
BASOS-0.5
___ 12:38PM   PLT COUNT-286
___ 12:38PM   ___ PTT-25.8 ___

Discharge Labs:
___ 10:45AM BLOOD WBC-5.1 RBC-3.93* Hgb-13.0* Hct-39.0* 
MCV-99* MCH-33.1* MCHC-33.3 RDW-14.1 Plt ___
___ 10:45AM BLOOD Glucose-378* UreaN-16 Creat-1.0 Na-138 
K-4.8 Cl-99 HCO3-32 AnGap-12
___ 10:45AM BLOOD Calcium-9.3 Phos-3.0 Mg-1.6

ECG: (___): Sinus rhythm. Rate 89. Non-diagnostic Q waves in 
leads III, aVF, and V6. Mild J point and ST segment elevation in 
inferior and lateral precordial leads. Since the previous 
tracing there is more artifact and otherwise probably no 
significant change. Clinical correlation is suggested.  

Imaging:

___: No evidence for acute cardiopulmonary process.

LIVER OR GALLBLADDER US (___): IMPRESSION: 
1.  Distended gallbladder without other evidence for 
cholecystitis.  No 
cholelithiasis. 
  
2.  Echogenic liver consistent with fatty infiltration.  Other 
forms of liver disease and more advanced liver disease including 
significant hepatic fibrosis/ cirrhosis cannot be excluded on 
this study. 
  
3.  Heterotopic renal transplant with chronic hydronephrosis and 
hydroureter, similar to ___. 

GALLBLADDER SCAN 4.2 mCi Tc-99m DISIDA (___): IMPRESSION: 
Normal hepatobiliary scan, terminated early due to patient 
discomfort. 

 
Brief Hospital Course:
___ old male with hx of poorly controlled DM c/b blindness, 
ESRD s/p renal transplant, CAD s/p stents to the RCA and LCX, 
presenting with chest pain and RUQ abdominal pain.  
 
Active Issues:
# Chest pain/CAD- Pt originally presented with chest pain which 
resolved on admission without therapy. He has a significant 
history of CAD and DM with previous DES to the RCA and Lcirc. 
His last stress test was in ___ without evidence of ischemia. 
Given extensive cardiac history and presentation he was 
monitiored on tele and ruled out for ACS with 3 negative trops 
and an EKG's that were unchanged Pt did not have chest pain 
while in the hospital. He was continued on ASA, plavix, 
atenolol, and isosorbide mononitrate.

# Abdominal Pain: Patient was complaining of pain primarily in 
the RUQ. His abdominal exam was benign exam with mild RUQ 
tenderness on palpation which was reassuring. RUQ US was 
negative for acute cholecystitis but showed a dilated 
gallbladder. Gallbladder HIDA scan was also normal although 
terminated early due to patient discomfort. Pt reported decrease 
in BM suggesting possible component of constipation. He was put 
on a bowel regimen of senna, colace, and miralax and started 
having bowel movements with resolution of symptoms. He tolerated 
PO liquids and his diet was advanced without further abdominal 
pain. He will be discharged on bowel regimen of senna, colace, 
and miralax. We also continued his home ranitidine for 
prevention of GERD. 
 
# ESRD s/p renal transplant in ___. Cr was mildly elevated from 
baseline on admission. After IVF this returned to baseline and 
remained so throughout hospitalization. Pt waa continued on his 
home azathioprine and prednisone. 
 
Chronic Issues:
# Type I diabets: No changes were made to home regimen.

# Hypothyroidism: Stable. Pt was continued on home dose of 
levothyroxine.

# HTN- Well controlled during hospitalization. He was continued 
on his home regimen of diltiazem and atenolol. His BP on 
discharge was 110/62. 
 
# Esophageal spasm: Pt without symptoms. Continued home 
diltiazem. Restarted home viscous lidocaine on discharge.
 
# Hx of MRSA abscesses: Continue minocycline for MRSA ppx

# Anxiety: Continue buspirone 30 mg PO BID  

# Depression: Continue Venlafaxine XR 225 mg PO DAILY  
 
Transitional Issues:
-Pt to follow up with PCP ___
 
___ on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from PatientwebOMR.
1. Atenolol 25 mg PO DAILY 
hold for SBP < 100 or HR< 60 
2. Azathioprine 50 mg PO EVERY OTHER DAY 
3. Azathioprine 100 mg PO EVERY OTHER DAY 
4. Clopidogrel 75 mg PO DAILY 
5. Diltiazem Extended-Release 120 mg PO DAILY 
hold for SBP < 100 or HR < 60 
6. levemir 16 Units Breakfast
levemir 10 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
7. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
hold for SBP <100 
8. Levothyroxine Sodium 100 mcg PO DAILY 
9. Lidocaine Viscous 2% 20 mL PO QID:PRN pain 
10. Minocycline 100 mg PO Q12H 
11. Morphine SR (MS ___ 15 mg PO Q12H:PRN pain 
12. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
13. Pravastatin 40 mg PO DAILY 
14. PredniSONE 5 mg PO DAILY 
15. Ranitidine 300 mg PO DAILY 
16. traZODONE 100 mg PO HS:PRN insomnia 

 
Discharge Medications:
1. Atenolol 25 mg PO DAILY 
hold for SBP < 100 or HR< 60 
2. Azathioprine 50 mg PO EVERY OTHER DAY 
3. Azathioprine 100 mg PO EVERY OTHER DAY 
4. Clopidogrel 75 mg PO DAILY 
5. Diltiazem Extended-Release 120 mg PO DAILY 
hold for SBP < 100 or HR < 60 
6. levemir 16 Units Breakfast
levemir 10 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
7. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
hold for SBP <100 
8. Levothyroxine Sodium 100 mcg PO DAILY 
9. Minocycline 100 mg PO Q12H 
10. Morphine SR (MS ___ 15 mg PO Q12H:PRN pain 
11. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
12. Pravastatin 40 mg PO DAILY 
13. PredniSONE 5 mg PO DAILY 
14. Ranitidine 300 mg PO DAILY 
15. traZODONE 100 mg PO HS:PRN insomnia 
16. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 17 g by 
mouth Daily: PRN constipation Disp #*500 Gram Refills:*0
17. Senna 1 TAB PO BID constipation 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth twice a day 
Disp #*60 Capsule Refills:*0
18. Venlafaxine XR 225 mg PO DAILY 
19. BusPIRone 30 mg PO BID 
20. Docusate Sodium 200 mg PO BID 
RX *docusate sodium [Colace] 100 mg 2 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0
21. Lidocaine Viscous 2% 20 mL PO QID:PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal Pain constipation induced
Chest Pain
Diabetes Mellitus
Hypertension
Hyperthyroidism
ESRD s/p renal transplant

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you while you were hospitalized 
at ___. You came to the hospital because you were having 
abdominal pain and chest pain. Your tests were reassuring that 
the pain was not due to a heart attack. Your chest pain 
resolved. Your lab tests and imaging were also reassuring that 
you abdominal pain was not due to problems with your liver or 
gallbladder. We think your abdominal pain is from constipation.  
Your abdominal pain is also better and you are now able to eat 
food.
 
Followup Instructions:
___